US07601714B2
5-nitro-N4-{[trans-4-(pyridin-2-ylamino)cyclohexyl]methyl}-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine
A mixture of N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine (100 mg, 0.23 mmol), 2-fluoropyridine (0.5 mL) and diisopropylethyl (0.2 mL) was placed in a microwave tube and heated to 150° C. in the Personal Chemistry Microwave for 1 h, 165° C. for 1 h, then 185° C. for another 2 h. The reaction mixture was concentrated and the resulting residue was diluted with ethyl acetate. The organic phase was washed with 10% citric acid and brine. The organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel prep TLC using 98:2 CH2Cl2:MeOH as an eluent to afford 29 mg of the title compound, m/z 518.9 [M+1]+.

reactant | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 0.23 mmol, 100 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
reactant | 2-fluoropyridine | 0.5 mL | FC1=NC=CC=C1 | C5H4FN
product | 5-nitro-N4-{[trans-4-(pyridin-2-ylamino)cyclohexyl]methyl}-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 29 mg | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)NC1=NC=CC=C1 | C24H26F3N7O3
